*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/3.90e-03[uF]/50[V]
* Murata P/N :GRM155R71H392KA01
* Property : C = 3.90e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71H392KA01 Port1 Port2
C01 Port1 N01 3.76e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.48e-10
R03 N02 N03 1.28e-01
C04 N03 N04 5.07e-07
R04 N03 N04 4.33e+03
C05 N04 N05 6.43e-07
R05 N04 N05 3.95e+02
C06 N05 N06 5.37e-07
R06 N05 N06 4.75e+01
C07 N06 N07 4.05e-07
R07 N06 N07 5.58e+00
C08 N07 N08 3.49e-07
R08 N07 N08 6.15e-01
C09 N08 N09 2.07e-07
R09 N08 N09 1.98e-01
C10 N09 N10 7.64e-08
R10 N09 N10 7.73e-02
L11 N10 N11 4.64e-11
R11 N10 N11 2.25e-01
C12 N11 N12 7.94e-09
L12 N11 N12 1.07e-11
R12 N11 N12 4.57e-02
C13 N12 Port2 2.06e-12
L13 N12 Port2 1.55e-10
R13 N12 Port2 2.86e+01
.ENDS GRM155R71H392KA01
